US06656938B2
A solution of tert-butyl 2-{2-[2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate (10.22 g, 24.7 mmol) in 250 mL of CHCl3 was treated with 3-chloroperoxybenzoic acid (MCPBA, 77%, 9.12 g, 40.8 mmol). After stirring 30 min, the reaction mixture was washed with 1% Na2CO3 solution (2×75 mL) and brine. The organic layer was then dried over Na2SO4 and concentrated to give 10.6 g of tert-butyl 2-{2-[2-(2-methoxyethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate as an orange foam that was used without further purification.

reactant | tert-butyl 2-{2-[2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate | 24.7 mmol, 10.22 g | COCCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCNC(OC(C)(C)C)=O | C22H30N4O4
reactant | 3-chloroperoxybenzoic acid | 40.8 mmol, 9.12 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CHCl3 | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 2-{2-[2-(2-methoxyethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate | 10.6 g | COCCC=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCOCCNC(OC(C)(C)C)=O | C22H30N4O5
